US05972951
N-[4-Bromo-3-methylphenyl]-methanesulphonamide
To a stirred solution of 4-bromo-3-methylaniline (3.32 g, 17.8 mmol) in dry dichloromethane (150 ml) was added triethylamine (4.96 ml, 35.6 mmol), followed by methanesulphonyl chloride (1.52 ml, 19.6 mmol). The complete reaction mixture was stirred at room temperature under Ar for 18 hours. The mixture was then washed with water, saturated potassium carbonate solution, and finally brine. The organic layer was dried (Na2SO4) and concentrate din vacuo to afford a creamy orange solid. This was dissolved in dichloromethane and shaken with 10% sodium hydroxide solution. The aqueous layer was separated and acidified to pH 6 using concentrated hydrochloric acid. This solution was then extracted using chloroform. The combined organic layers were dried (Na2SO4) and concentrated in vacuo to afford the title compound as a white solid (1.35 g, 30%).

reactant | 4-bromo-3-methylaniline | 17.8 mmol, 3.32 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | triethylamine | 35.6 mmol, 4.96 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 19.6 mmol, 1.52 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-[4-Bromo-3-methylphenyl]-methanesulphonamide | 1.35 g, 30% | BrC1=C(C=C(C=C1)NS(=O)(=O)C)C | C8H10BrNO2S
